US07994163B2
Dissolve 4-(1,1-dimethyl-propyl)-benzenethiol (100 mg, 0.55 mmol) in anhydrous DMF (2 mL). Add sodium hydride (32 mg, 0.78 mmol, 60% dispersion in mineral oil) at room temperature under a nitrogen atmosphere. Stir the mixture for 5 min, then add a solution of 3-tert-butoxycarbonyl-7-chloro-6-chloromethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine (214 mg, 0.55 mmol) in anhydrous DMF (2 mL). Heat the mixture to 45° C., add catalytic sodium iodide and stir the mixture at 45° C. for 6 h. Cool the reaction mixture to room temperature and quench with water. Extract the mixture with EtOAc (4×25 mL). Wash the combined organic extracts with brine. Dry the organic layer over MgSO4, filter and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with hexane/EtOAc (20:1 to 17:3 gradient) to obtain 3-tert-butoxycarbonyl-7-chloro-6-[4-(1,1-dimethyl-propyl)-phenylthiomethyl]-2,3,4,5-tetrahydro-1H-benzo[d]azepine (105 mg, 40%).

reactant | 4-(1,1-dimethyl-propyl)-benzenethiol | 0.55 mmol, 100 mg | CC(CC)(C)C1=CC=C(C=C1)S | C11H16S
reactant | sodium hydride | 0.78 mmol, 32 mg | [H-].[Na+]
reactant | 3-tert-butoxycarbonyl-7-chloro-6-chloromethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.55 mmol, 214 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)CCl | C16H21Cl2NO2
reactant | sodium iodide | [I-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-tert-butoxycarbonyl-7-chloro-6-[4-(1,1-dimethyl-propyl)-phenylthiomethyl]-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 105 mg, 40% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)CSC2=CC=C(C=C2)C(CC)(C)C | C27H36ClNO2S
